US05576343
Preparation of (6-Cyano-1,2,3,4-tetrahydro-2-naphthyl)methyltriphenylphosphonium p-Toluene Sulfonate
24.00 g of 5,6,7,8-tetrahydro-6-[(p-toluenesulfonyl)oxymethyl]-2-naphthalenecarbonitrile and 18.38 g of triphenylphosphine were mixed, and then heated at a temperature of 130° to 140° C. for 15 hours in a sealed container. The resulting reaction product was crystallized from an acetone/n-hexane mixture to obtain 23.3 g of the title compound in the form of light yellow powder.

reactant | 5,6,7,8-tetrahydro-6-[(p-toluenesulfonyl)oxymethyl]-2-naphthalenecarbonitrile | 24.00 g | C1(=CC=C(C=C1)S(=O)(=O)OCC1CC=2C=CC(=CC2CC1)C#N)C | C19H19NO3S
reactant | triphenylphosphine | 18.38 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (6-Cyano-1,2,3,4-tetrahydro-2-naphthyl)methyltriphenylphosphonium p-Toluene Sulfonate | 23.3 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C(#N)C=1C=C2CCC(CC2=CC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C30H27NP.C7H8O3S/c31-22-24-16-18-27-21-25(17-19-26(27)20-24)23-32(28-10-4-1-5-11-28,29-12-6-2-7-13-29)30-14-8-3-9-15-30;1-6-2-4-7(5-3-6)11(8,9)10/h1-16,18,20,25H,17,19,21,23H2;2-5H,1H3,(H,8,9,10)/q+1;/p-1
